US04980345
Ten grams (0.102 mole) of 3,3-dimethyl-3-methoxy-1-propyne, produced according to the method described in Zh. Org. Khim., 2(11), 1969-1973 (1966), was dissolved in 100 ml of anhydrous tetrahydrofuran, and the resulting solution was cooled to -40° C. or less in a dry ice-acetone bath. Under a stream of a nitrogen gas, 68 ml of 1.5M hexane solution of n-butyllithium was added dropwise at -40° C. or less with stirring. After aging the reaction solution at -50° C. for 30 minutes, 7.53 g (0.102 mole) of 2-fluoroacrolein was added dropwise at -50° C. or less. After the reaction mixture was allowed to stand overnight at room temperature, it was poured into 200 ml of ice water and extracted with two 100-ml portions of ethyl acetate. The organic layers were combined, washed once with 100 ml of a saturated aqueous sodium chloride solution and concentrated under reduced pressure. The residue was distilled under reduced pressure to obtain 3 g of 2-fluoro-3-hydroxy 6,6-dimethyl-6-methoxyhex-1-ene-4-yne.

reactant | hexane | 1.5M, 68 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-fluoroacrolein | 0.102 mole, 7.53 g | FC(C=O)=C | C3H3FO
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-fluoro-3-hydroxy 6,6-dimethyl-6-methoxyhex-1-ene-4-yne | 3 g | FC(=C)C(C#CC(OC)(C)C)O | C9H13FO2
